US08476434B2
In a manner analogous to that described in Klappars, A.; Antilla, J. C.; Huang, X.; Buchwald, S. L. J. Am. Chem. Soc. 2001, 123, 7727, 4-(2-(4-iodophenoxy)pyridin-3-yl)-N-methylpyrimidin-2-amine (202 mg, 0.500 mmol), 4-aminobenzamide (102 mg, 0.750 mmol), finely ground CuI (4.8 mg, 0.0250 mmol, 5 mol %), and anhydrous potassium phosphate (212 mg, 1 mmol) were added into a screw cap test tube. The tube was purged with argon for 5 minutes. Then trans-1,2-diaminocyclohexane (15.0 mL, 0.100 mmol, 10 mol %) and dioxane were added into the reaction mixture via syringe. The tube was sealed and placed in a preheated oil bath at 110° C. After a day, the reaction was cooled to room temperature. The reaction mixture was passed through a pad of celite with the aid of ethyl acetate. The filtrate was concentrated under reduced pressure. The product was purified by column chromatography using 10:90 Hex:EtOAc. 4-Amino-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)benzamide was obtained as an off-white solid.

reactant | 4-(2-(4-iodophenoxy)pyridin-3-yl)-N-methylpyrimidin-2-amine | 0.500 mmol, 202 mg | IC1=CC=C(OC2=NC=CC=C2C2=NC(=NC=C2)NC)C=C1 | C16H13IN4O
reactant | 4-aminobenzamide | 0.750 mmol, 102 mg | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
reactant | potassium phosphate | 1 mmol, 212 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | trans-1,2-diaminocyclohexane | 0.100 mmol, 15.0 mL | N[C@H]1[C@@H](CCCC1)N | C6H14N2
catalyst | CuI | 0.0250 mmol, 4.8 mg | [Cu]I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-Amino-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)benzamide | NC1=CC=C(C(=O)NC2=CC=C(C=C2)OC2=NC=CC=C2C2=NC(=NC=C2)NC)C=C1 | C23H20N6O2
